US04341718
α-Hydroxy-β-(4-Chlorophenoxy)-N-(1-Methylethyl)-4-Chlorobenzenepropanamide
This compound was prepared from N-(1-methylethyl)-3-(4-chlorophenyl)-2-oxiranecarboxamide (9.56 g.), p-chlorophenol (5.2 g.), sodium hydride (50% oil dispersion, 2.0 g.) 18-crown-6 (3.0 g.), and acetonitrile (300 ml.) as described in Example 12, and purified by recrystallization from ether. The compound melted at 177°-179°, and weighed 0.76 g.

reactant | N-(1-methylethyl)-3-(4-chlorophenyl)-2-oxiranecarboxamide | 9.56 g | CC(C)NC(=O)C1OC1C1=CC=C(C=C1)Cl | C12H14ClNO2
reactant | p-chlorophenol | 5.2 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | 18-crown-6 | 3.0 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | α-Hydroxy-β-(4-Chlorophenoxy)-N-(1-Methylethyl)-4-Chlorobenzenepropanamide | OC(C(=O)NC(C)C)C(C1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)Cl | C18H19Cl2NO3
